US05639915
A round-bottomed flask (50 cc) was charged with bis(5-amino-2-chloro-4-fluorophenyl)carbonate (1.50 g, 4.30 mmol), (1-butyn-3-yl)tosylate (2.03 g, 9.02 mmol) and tetrabutylammonium bromide (71 mg, 0.22 mmol) to prepare a solution in toluene (25 mL). Subsequently, 48% sodium hydroxide in aqueous solution (6 mL) was added slowly and the mixture was stirred under heating at 60° C. for 2 h. After completion of the reaction, the reaction mixture was cooled to room temperature and water (15 mL) was added, followed by extraction with toluene (10 mL×2). The organic layers were combined and washed with water (10 mL×2). The solvent was distilled off under vacuum from the resulting toluene solution, thereby giving 4-chloro-2-fluoro-5-{(1-butyn-3-yl)oxy}aniline (1.12 g, 5.24 mmol; yield=61.0%).

reactant | bis(5-amino-2-chloro-4-fluorophenyl)carbonate | 4.30 mmol, 1.50 g | NC=1C(=CC(=C(C1)OC(OC1=C(C=C(C(=C1)N)F)Cl)=O)Cl)F | C13H8Cl2F2N2O3
reactant | (1-butyn-3-yl)tosylate | 9.02 mmol, 2.03 g | C#CC(C)OS(=O)(=O)C1=CC=C(C)C=C1 | C11H12O3S
reactant | sodium hydroxide | [OH-].[Na+]
reactant | water | 15 mL | O | H2O
catalyst | tetrabutylammonium bromide | 0.22 mmol, 71 mg | [Br-].C(CCC)[N+](CCCC)(CCCC)CCCC
solvent | toluene | 25 mL | C1(=CC=CC=C1)C | C7H8
product | 4-chloro-2-fluoro-5-{(1-butyn-3-yl)oxy}aniline | 5.24 mmol, 1.12 g, yield=61.0% | ClC1=CC(=C(N)C=C1OC(C#C)C)F | C10H9ClFNO
